* ltp 2N5089 central-semi.lib
.include "models/bjt/2N5089/central-semi.lib"
V1 vp 0 15
V2 vn 0 -15
Vin b1 0 DC 0 AC 1m
Rb2 b2 0 10
Q1 c1 b1 e 2N5089
Q2 c2 b2 e 2N5089
R1 vp c1 4.7k
R2 vp c2 4.7k
It e vn 1m
.ac list 1k
